Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Headache and rash

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o right-handed M w/ history of prostate cancer not on 
treatment, hypothyroidism, conus and cauda equina mass 
suspicious to be a schwannoma who presents to the emergency 
department for a new rash and persistent headache in the setting 
of a recent lumbar puncture on ___. He reports that on ___ he 
was scheduled to obtain an MRI to further evaluate the 
schwannoma and had noticed that he developed a fine, pinpoint 
rash on his R arm and L abdomen,. He was seen in outpatient 
neurology and where an evaluation was performed, diagnostic 
testing sent, and ultimately an LP was completed on ___. He was 
started on doxy for empiric lyme treatment. He returned home 
with some residual HA that worsened on ___, prompting him to 
present to the ED for treatment. The HA is positional and 
improves with lying flat. He denies any N/V, jerks/seizures. 

In terms of the rash--it began on ___ on R arm and L 
abdomen, evolved by ___ to involve L posterior calf. On 
___ he was started on prednisone 60mg x 3days, 40mg x 3days 
and 20mg x 3days by a relative. The rash quickly resolved and 
now there is mild residual, faint pin-points that he still 
notices on the R arm. 

In the ED, he received 2L IVF, caffeine, doxycycline, benzoate, 
Tylenol, ketorolac, with interval improvement in HA. He was also 
found to have a WBC of 15.1 that was previously normal on ___. 
He was admitted for workup and management of headache and rash. 
Dr. ___ neuro-oncologist ___ see him tomorrow, and 
recommended possible dermatology evaluation and consideration 
for a blood path/anesthesia eval should his HA persist.  

On the floor, he was well-appearing, conversant, and able to 
fully recount history. He is accompanied by his wife, who has 
detailed documentation of the disease course as it had evolved. 
He feels the rash has significantly improved and is nearly gone 
after starting the prednisone. The headache is also 
significantly improved. He denies any neurological symptoms 
including weakness, numbness, tingling or bowel or bladder 
incontinence. He denies new medications other than those listed 
above, new travel history, tick bites, arthralgias, myalgias, or 
any URI symptoms. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies sinus tenderness, rhinorrhea or congestion. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. Ten point review of 
systems is otherwise negative.  

 
Past Medical History:
Prostate cancer diagnosed in ___, not on treatment. 
Conus lesion possibly schwannoma
Hypothyroidism. 
Lyme disease ___
L5 herniated disk in ___
Tendon release of the left elbow 

 
Social History:
___
Family History:
His mother died of breast cancer while his
father is alive and healthy at age ___.  He has 2 brothers, a
daughter, and a son; they are all healthy.
 
Physical Exam:
Physical Exam on Admission:
VS: T97.7, BP 133/90 P 72, RR 16, O2 97% RA 
GEN: Well-appearing, energetic man, NAD, AAOX3. 
HEENT: NCAT, Pupils equal and reactive, anicteric sclera, OP 
clear, moist mucous membranes.   
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: RRR, normal S1S2, no m/r/g
P: Good air movement bilaterally, CTAB, no rhonchi or wheezing.  

Abd: Soft, non-tender, non-distended, + bowel sounds.  
Derm: Faint, small number of scattered pinpoint rash on L 
abdomen. Confluent erythema on R lateral arm. Face, neck, chest, 
back, legs clear.
Ext: Warm, 2+ pulses, no lower leg edema, no clubbing or 
cyanosis  
Neuro: AAOx3, Neg head jolt test, Cranial nerves ___ grossly 
intact, muscle strength ___ in all major muscle groups, 
sensation to light touch intact, normal FNF, non-focal. Gait 
deferred.  
Psych: Appropriate and calm.  

=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
Physical Exam on Discharge:
O: VS: T 98.0, BP 130s/80s-90s P ___, RR ___, O2 97% RA 
GEN: Well-appearing, energetic man, NAD, AAOX3. 
HEENT: NCAT, Pupils equal and reactive, anicteric sclera, OP 
clear, moist mucous membranes.   
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: RRR, normal S1S2, no m/r/g
P: Good air movement bilaterally, CTAB, no rhonchi or wheezing.  

Abd: Soft, non-tender, non-distended, + bowel sounds.  
Derm: Interval stability of rash. Remains to have faint, 
scattered pinpoint patch on L abdomen. Confluent non-blanching 
erythematous patch on R lateral arm. Face, neck, chest, back, 
legs clear.
Ext: Warm, 2+ pulses, no lower leg edema, no clubbing or 
cyanosis  
Neuro: AAOx3, Neg head jolt test, Cranial nerves ___ grossly 
intact, muscle strength ___ in all major muscle groups, 
sensation to light touch intact, normal FNF, non-focal. Gait 
deferred.  
Psych: Appropriate and calm.  
 
Pertinent Results:
Labs on Admission:
___ 01:00AM BLOOD WBC-15.6*# RBC-4.52* Hgb-14.3 Hct-41.1 
MCV-91 MCH-31.6 MCHC-34.8 RDW-12.6 RDWSD-41.4 Plt ___
___ 01:00AM BLOOD Neuts-85.4* Lymphs-7.6* Monos-6.5 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-13.28*# AbsLymp-1.18* 
AbsMono-1.01* AbsEos-0.00* AbsBaso-0.02
___ 01:00AM BLOOD ___ PTT-24.3* ___
___ 01:00AM BLOOD Plt ___
___ 01:00AM BLOOD Glucose-116* UreaN-13 Creat-1.0 Na-134 
K-4.1 Cl-98 HCO3-23 AnGap-17
___ 01:00AM BLOOD HoldBLu-HOLD
___ 01:00AM BLOOD GreenHd-HOLD

=
=
=
=
=
=
================================================================
Pertinent Results:
CSF ANALYSIS WBC RBC Polys Lymphs Monos 
___ 14:00       ___    82      16 
GRAM STAIN (Final ___: NO POLYMORPHONUCLEAR LEUKOCYTES 
SEEN. NO MICROORGANISMS SEEN. 

FLUID CULTURE (Final ___: NO GROWTH. 

ACID FAST CULTURE (Preliminary): The sensitivity of an AFB smear 
on CSF is very low. If present, AFB may take ___ weeks to grow.. 


FUNGAL CULTURE (Preliminary): NO FUNGUS ISOLATED. 

Path: CSF Cytology, ___
Negative for malignant cells.   

Lyme PCR: Negative
VDRL: Negative
Varicella: Negative
RPR: Negative
Crypto: Negative
Beta 2 macroglobulin: 1.2
=
=
=
=
=
=
================================================================
Labs on Discharge:
___ 05:35AM BLOOD WBC-10.6* RBC-4.39* Hgb-13.6* Hct-41.0 
MCV-93 MCH-31.0 MCHC-33.2 RDW-13.0 RDWSD-44.1 Plt ___
___ 05:35AM BLOOD Neuts-70.1 ___ Monos-9.1 Eos-0.4* 
Baso-0.2 Im ___ AbsNeut-7.47* AbsLymp-2.07 AbsMono-0.97* 
AbsEos-0.04 AbsBaso-0.02
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-82 UreaN-18 Creat-1.1 Na-137 
K-4.5 Cl-102 HCO3-26 AnGap-14
___ 05:35AM BLOOD ALT-21 AST-18 AlkPhos-52 TotBili-0.5
___ 05:35AM BLOOD Calcium-9.3 Phos-4.2 Mg-2.1

=
=
=
=
=
=
================================================================

Clinical Studies/Imaging:

CT Head without contrast: ___
FINDINGS:  
  
There is no evidence of large territorial infarction, 
hemorrhage, or mass.  The ventricles and sulci are unremarkable 
and the basilar cisterns are patent. A right temporal 
extra-axial, CSF intensity fluid collection is unchanged from 
prior MRI, compatible with a arachnoid cyst. 
  
No osseous abnormalities seen.  Minimal maxillary sinus mucosal 
thickening is noted.The paranasal sinuses are otherwise clear.  
The mastoid air cells and middle ear cavities are patent.  The 
orbits are unremarkable. 
  
IMPRESSION: 
 
1. No acute intracranial abnormality on noncontrast head CT. 
2. No evidence for intracranial hypotension on CT. 

MRI Spine: ___
IMPRESSION: 
  
  
1. 4 mm intradural extramedullary T1 hyperintense, T2 
hypointense nodule at the proximal cauda equina/ conus 
medullaris tip which does not demonstrate definitive 
postcontrast enhancement and is unchanged comparison to ___.  Differential considerations include a nerve 
sheath tumor, myxopapillary ependymoma, atypical spinal lipoma, 
or proteinaceous cyst amongst others.  

Given the stability in comparison to ___, this is unlikely to 
represent 
metastatic disease or a high-grade neoplasm. 
2. Multilevel degenerative changes, as described, greatest at 
L4-L5, where 
there is subarticular zone stenosis which contacts the bilateral 
traversing L5 
nerve roots. 

 
Brief Hospital Course:
___ y/o right-handed male with history of prostate cancer not on 
treatment, hypothyroidism, conus and cauda equina mass 
suspicious to be a schwannoma who presents to the emergency 
department for a new rash and persistent headache in the setting 
of a recent lumbar puncture on ___.  

#Rash: Patient endorsed a new rash on ___ on R arm and L 
abdomen. It was itchy and was unrelieved by Benadryl. He was 
started on prednisone by a family friend on ___ and since has 
had near full resolution of the rash. He denied any recent URI 
symptoms, recent travel or new medications. This was initially 
thought to be a viral exanthema vs. unlikely an acute infectious 
process. Meningococcemia and lyme were considered given his 
headache, but absence of fever, benign physical exam, and 
morphology of the rash makes these less likely. The distribution 
is not characteristic of RMSF, ___ or syphillis. The 
clinical morphology of the rash did not appear to be a 
vasculitic or connective tissue process. Extensive testing by 
the outside provider, including CSF analysis for lyme, crypto, 
AFB, VDRL, were negative. 

We obtained a dermatology consultation who recommended that this 
was non-specific and the rash it was difficult to evaluate at 
this time since the morphology changed after starting the 
prednisone. They also recommended we initiate a slightly slower 
steroid taper. We decided to go down on the steroids as follows: 
40mg for 3 days, 20mg for 3 days, and 10mg for 3 days, then stop 
(last dose ___. For itch, he was prescribed topical 
triamcinolone 0.1% for up to 2 weeks PRN (not to exceed). He 
will follow-up with dermatology in 2 weeks on ___ at 11am with 
Dr. ___ (___). 

#Post-lumbar puncture headache: Patient underwent an LP on ___ 
to evaluate for the etiology of his rash, and had post-LP HA 
that was mild. His symptoms worsened on ___ that prompted him 
to visit the ED. The HA is positional and improves with lying 
down. Now s/p IVF, toradol, caffeine, Tylenol with significant 
improvement. Likely post-LP headache. CT neg for acute 
intracranial process. No change in mental status, afebrile, and 
clinical exam not suggestive of an acute infectious etiology 
such as meningococcemia, lyme, or other processes. We started 
him on fioricet and his symptoms improved significantly the next 
day. However, towards the afternoon he reported another episode 
of HA and we added Ibuprofen with good relief. He was discharged 
with Fioricet and Ibuprofen, and was instructed to stagger these 
two medications in order to get coverage of your pain. He is 
aware that he can stop these medications when no longer needed.

#Leukocytosis: At the time of admission, he had a new 
leukocytosis to 15.1. Infectious etiologies were considered as 
above, and numerous diagnostic tests sent by the outside 
provider have been negative. He remains afebrile and clinically 
appears very energetic and robust, hence an infectious process 
appears less likely at this time. His leukocytosis downtrended 
to 10.6 the next day. Given that he was on prednisone, it was 
thought it was ___ steroid use. We monitored him closely, and 
share this result with him. He was well-appearing at the time of 
discharge. 

#Cona and cauda equine mass: Patient has a history of conus and 
cauda equina mass (likely schwannoma) and is followed by Dr. 
___. A recent MRI on ___ demonstrated a stable 4 mm 
intradural extramedullary T1 hyperintense, T2 hypointense nodule 
at the proximal cauda equina/ conus medullaris tip which does 
not demonstrate definitive postcontrast enhancement and is 
unchanged comparison to ___. During this 
hospitalization, Mr. ___ denied any back or lower extremity 
neurological symptoms, denied bowel or bladder incontinence. Dr. 
___ the patient during this hospitalization and 
recommended an outpatient follow-up in 2 weeks. 

#Hypothyroidism: We continued him on his home synthroid.

=
=
=
================================================================
Transitional Issues: 
1. Please follow-up regarding patient's headache and ensure that 
it has fully resolved.
2. Please follow-up regarding patient's R arm/L abdominal rash 
and coordinate care based on dermatology recommendations
3. Please follow-up regarding his cona/caudal tumor.

Code: Full
Contact: Wife ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth Every 6 hours as needed for headache Disp 
#*100 Capsule Refills:*0
3. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID Itch 
Duration: 2 Weeks 
RX *triamcinolone acetonide 0.1 % Apply a small pea sized over 
itchy area and rub into skin Three times a day as needed Disp 
___ Gram Gram Refills:*0
4. PredniSONE 10 mg PO DAILY Duration: 3 Days 
RX *prednisone 10 mg 4 tablet(s) by mouth Daily Disp #*13 Tablet 
Refills:*0
5. Ibuprofen 400 mg PO Q8H:PRN pain 
Please stagger this medication with your other headache 
medication 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-lumbar puncture headache
Dermatitis, non-specific
Cona/Caudis Tumor, possible Schwannoma
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted for a severe headache and rash.  We evaluated 
you for this and felt this was likely due to your lumbar 
puncture procedure that occurred on ___.  In the emergency 
department, you received fluids, ketorolac, caffeine, and 
Tylenol. Upon coming to the floor, your headache improved. We 
gave you Fioricet and ibuprofen while you were here, which 
further improved your headache. Because of this, we decided 
after a lengthy discussion with you that we won't pursue a blood 
patch.  Please stop the Fioricet and ibuprofen when you no 
longer need it.  While you do need it, please stagger these two 
medications so that you get full coverage of your pain.

Regarding your rash, since starting on the prednisone it has 
significantly improved. We obtained a dermatology consultation 
who recommended that this was non-specific and the rash has 
changed after starting the prednisone. It is hard to determine 
the specific cause now. They also recommended we go down your 
steroids a little slower. We decided to go down on your steroids 
as follows: 40mg for 1 more day, 20mg for 3 days, and 10mg for 3 
days, then stop. For itch, you can use topical triamcinolone 
0.1% for up to 2 weeks (not to exceed, and only use if itchy). 
They recommended you follow up with them in outpatient clinic in 
2 weeks on ___ at 11am with Dr. ___ (___). 

Dr. ___ you while you were hospitalized and was aware 
of all the planning, and recommended he follow-up with you in 2 
weeks in his clinic. 

It was a pleasure to care for you during this hospitalization.

Good Luck!

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___